US04279918
2-(4-chlorobenzyl)-1-methylpyrrolidine
Boil 40 g of 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-methylpyrrolidine and 150 ml of conc. hydrochloric acid under reflux until the cessation of evolution of carbon dioxide. Cool the thus-obtained reaction mixture and then render it alkaline with 10% strength solution of sodium hydroxide before extracting the resulting product with 5×70 ml of diethyl ether. After drying over sodium sulfate, concentrate the ether extract to a solid residue. Hydrogenate the solid residue in 550 ml of ethanol with Pt/hydrogen to obtain 27.6 g of the title compound having a boiling point of 75° at 0.005 mm of Hg.

reactant | 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-methylpyrrolidine | 40 g | C(C)OC(=O)C(C1=CC=C(C=C1)Cl)=C1N(CCC1)C | C15H18ClNO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 2-(4-chlorobenzyl)-1-methylpyrrolidine | 27.6 g | ClC1=CC=C(CC2N(CCC2)C)C=C1 | C12H16ClN
